US06326359B1
2-{2-[(1-Benzhydryl-3-azetidinyl)amino]ethyl}-9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-N-(2,2-diphenylethyl)-9H-purin-6-amine
1-Benzhydryl-3-azetidinyl methanesulfonate (90 mg, 0.28 mmol) and potassium carbonate (50 mg, 0.36 mmol) were added to a stirred solution of N-{2-(2-aminoethyl)-9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-9H-purin-6-yl}-N-(2,2-diphenylethyl)amine (200 mg) (preparation 18) in acetonitrile (3 ml). The reaction mixture was heated at reflux for 5 hr and then allowed to stand at room temperature for a further 24 hr. The resulting mixture was partitioned between ethyl acetate and water. The ethyl acetate layer was separated and the aqueous layer extracted with more ethyl acetate. The combined organic solutions were washed with brine and dried with anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the residue purified by column chromatography on silica gel eluting with a solvent system of dichloromethane:methanol:ammonia (98:2:0.2) to give the title compound (135 mg) as a foam. MS: 955 (MH+).

reactant | 1-Benzhydryl-3-azetidinyl methanesulfonate | 0.28 mmol, 90 mg | CS(=O)(=O)OC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C17H19NO3S
reactant | potassium carbonate | 0.36 mmol, 50 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-{2-(2-aminoethyl)-9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-9H-purin-6-yl}-N-(2,2-diphenylethyl)amine | 200 mg | NCCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)COC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C39H60N6O4Si2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 2-{2-[(1-Benzhydryl-3-azetidinyl)amino]ethyl}-9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-N-(2,2-diphenylethyl)-9H-purin-6-amine | 135 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)NCCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)COC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C55H75N7O4Si2
